US04210758
4-Ethyl-1,5-dihydro-1,5-dioxo-N-(1H-tetrazol-5-yl)-4H-[1]benzopyrano[3,4-b]pyridine-2-carboxamide
Prepared by the method described for Ex. 17 from 4-ethyl-1,5-dihydro-1,5-dioxo-4H-1-benzopyrano[3,4-b]pyridine-2-carboxylic acid (2.2 g, 0.0077 mole), 1,1'-carbonyldiimidazole (2.4 g, 0.0148 mole) and 5-aminotetrazole monohydrate (0.76 g, 0.0076 mole) in dimethylformamide (30 ml). Recrystallization from dimethylformamide gives pale yellow crystals (1.5 g, 55%), m.p. above 300.

reactant | 4-ethyl-1,5-dihydro-1,5-dioxo-4H-1-benzopyrano[3,4-b]pyridine-2-carboxylic acid | 0.0077 mole, 2.2 g | C(C)N1C2=C(C(C(=C1)C(=O)O)=O)C1=C(OC2=O)C=CC=C1 | C15H11NO5
reactant | 1,1'-carbonyldiimidazole | 0.0148 mole, 2.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-aminotetrazole monohydrate | 0.0076 mole, 0.76 g | O.NC1=NN=NN1
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-Ethyl-1,5-dihydro-1,5-dioxo-N-(1H-tetrazol-5-yl)-4H-[1]benzopyrano[3,4-b]pyridine-2-carboxamide | 1.5 g, 55% | C(C)N1C2=C(C(C(=C1)C(=O)NC1=NN=NN1)=O)C1=C(OC2=O)C=CC=C1 | C16H12N6O4
